Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status, SI, HI
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per psychiatric evaluation notes from ED and ___ medical 
setting over the last week, this is a ___ year old woman with no 
formal past psychiatric history who has presented several times 
to ___ ED in recent weeks with concerns of depression and 
suicidal thinking. Most recently she was brought in by her 
sister because she was having increasing trouble sleeping and 
command auditory hallucinations to kill her family and herself. 
The episode appeared to have begun shortly after a family 
vacation to ___ and ___. The trip was 
generally enjoyable but at the end experienced decreased 
appetite and depressed mood, which has been worsening with 
thoughts to stab herself in the chest. She has also experienced 
worsening insomnia, pervasive religious thoughts such as losing 
her soul, and ongoing auditory and visual hallucinations. A 
short stay in the CSU earlier this month was not found to be 
helpful.

On admission interview the patient confirms this story. She 
continues to feel depressed and suicidal, with a "bad spirit" 
commanding her to kill her family and herself (though she says 
she doesn't want to) and being afraid to watch TV because it 
keeps sending her special messages. She says that at the 
beginning of the medical admission she was very scared and 
confused but does not feel that way as much anymore. She is glad 
to be in the psychiatric unit because she understands that she 
needs help now.
 
Past Medical History:
- h pylori s/p triple therapy ___
- Twins were born via C-section (had twin/twin transfusion)
- h/o SAB ___
- h/o endometriosis
- h/o abnormal pap smear
 
Social History:
___
Family History:
Sister and mom are depressed, father may have intermittent SI. 
No family suicide attempts.
 
Physical Exam:
VITALS:
BP: 147/93  HR: 85  temp: 98.1   resp: 16  O2 sat: 100%RA  
height: 66"  weight: 134 lbs

MENTAL STATUS EXAM:
-Appearance: good grooming with fair eye contact
-Behavior/attitude: cooperative as able in context of 
disorganization; exhibited no PMR, PMA
-Speech: somewhat slow rate and quiet tone, not 
dysarthric/aphasic
-Mood (in patient's words): "calm" 
-Affect: blunted affect
-Thought content (describe): endorses ideas of reference from 
TV; some hyperreligiosity
-Thought process: circumstantial somewhat disorganized historian 
but redirectible to subject
-Perception: significant for AH, did not endorse VH
-SI/HI: significant for SI without intent, but with plan to stab 
self; HI towards family w/o intent; verbalized a safety plan
-Insight: fair to limited
-Judgment: fair

COGNITIVE EXAM:
-Orientation: alert to person, place, time, situation
-Attention/concentration: able to recite MOYB
-Memory (ball, chair, purple): immediate intact and remote 
intact
-Calculations: quarters in $2.25 = 9
-Language: grossly intact
-Fund of knowledge: able to recall the president on ___ 
-Proverbs: provided accurate interpretation of "look before 
leap"
-Similarities/analogies: understood analogy of "ruler to clock"

PHYSICAL EXAM:
-General: Well-nourished, in no distress.
-HEENT: Normocephalic. PERRL, EOMI. ___ normal. Oropharynx 
clear.
-Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
-Back: No significant deformity, no focal tenderness.
-Lungs: Clear to auscultation; no crackles or wheezes.
-CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses
-Abdomen: Soft, nontender, nondistended; no masses or 
organomegaly.
-Extremities: No clubbing, cyanosis, or edema.
-Skin: Warm and dry, no rash or significant lesions.
-Neurological:
  *Cranial Nerves-
      I: Not tested
      II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, tremors. Strength full power ___ throughout.
  *Sensation- Intact to light touch bilaterally.
  *Reflexes- B 1+ BR 1+ Pa 1+ symmetric
  *Coordination- Normal on finger-nose-finger, rapid alternating 
movements.
 
Pertinent Results:
___ 06:20AM   HIV Ab-NEGATIVE
___ 09:00AM   PLT COUNT-270
___ 09:00AM   WBC-12.6* RBC-4.69 HGB-15.0 HCT-44.4 MCV-95 
MCH-32.1* MCHC-33.9 RDW-13.2
___ 09:00AM   TSH-1.7
___ 09:00AM   CALCIUM-9.6 PHOSPHATE-3.5 MAGNESIUM-2.0
___ 09:00AM   GLUCOSE-156* UREA N-12 CREAT-0.7 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 07:05AM   PLT COUNT-241
___ 07:05AM   WBC-11.1* RBC-4.40 HGB-14.4 HCT-40.2 MCV-91 
MCH-32.6* MCHC-35.7* RDW-13.4
___ 07:05AM   HCG-<5 
___ 07:05AM   VIT B12-798 FOLATE-14.3
___ 07:05AM   CALCIUM-9.3 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 07:05AM   ALT(SGPT)-40 AST(SGOT)-25 ALK PHOS-61 TOT 
BILI-0.2
___ 07:05AM   GLUCOSE-93 UREA N-11 CREAT-0.7 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 07:55AM   ___ INR-1.3*
___ 07:25AM   ___ PTT-32.5 INR-1.6*
___ 08:10AM   ___ PTT-35.1* INR-2.6*
___ 08:10AM   Cholest-195 Triglyc-162* HDL-76 CHOL/HD-2.6 
LDLcalc-87 
___ 10:46AM   URINE PORPHOBILINOGEN-NEGATIVE
___ 08:15AM   ___ PTT-34.6 INR-3.4*
___ 06:40AM   ___ PTT-34.9 INR-3.5*
___:  INR: 2.___. Legal: ___
2. Medical:  The patient was admitted on ___ to the medical 
service for unexplained leukocytosis in the context of altered 
mental status.

-Altered mental status:  Lumbar puncture, CT and MRI head, 
urine, blood, and stool studies were all negative for possible 
infectious or metabolic causes of encephalopathy.  The patient 
was treated with antibiotics briefly but these were discontinued 
when infectious processes were ruled out.  Occasional catatonic 
episodes were noted so benzodiazepines were instituted in place 
of antipsychotics for anxiety or agitation concerns.  In the 
psychiatry inpatient unit, there were no anxiety or agitation 
concerns, and did not display any acute altered mental status.   
 

-Pulmonary emboli:  On the medical service, she developed 
tachycardia to the 150s.  CT-Chest revealed segmental to 
subsegmental bilateral pulmonary emboli which were treated with 
Lovenox bridging to Coumadin.  Lovenox was discontinued once INR 
reached therapeutic range of ___.  She continues on Coumadin 2.5 
mg, and her INR as of ___ is 2.7, on 2.5mg coumadin daily.  
***PCP should followup INR at next visit, which is on ___

-Chronic pain:  There were no pain control issues.  Her pain was 
well-controlled on Tylenol.   
 
3. Psychiatric:  She was admitted on ___ to the psychiatry 
inpatient unit for safety, stabilization, and psychopharm 
evaluation, on citalopram 20 mg and olanzapine 15 mg.  Medicine 
workup for organic etiologies of her acute onset 
depression/psychosis were negative.  We added a urine 
porphobilinogen screen to rule out porphyria, which was 
negative.  

-Depression:  On admission, she reported improvement of her 
depression.  However, she still endorsed depressed mood and mild 
neurovegetative symptoms so citalopram was increased to 40 mg.  
She also exhibited a slow gait and mild psychomotor retardation, 
possibly a result of her depression.  This improved over the 
course of her hospitalization, but she still exhibits some 
residual psychomotor retardation. 

-Psychosis:  She endorsed command auditory hallucinations 
consisting of one unidentifiable genderless voice which she 
attributes as "the devil" telling her to hurt herself and her 
children.  She reports not having any auditory hallucinations 
since ___.  She also endorses ideas of reference, but it 
remains unclear how long she has had these.  At times she 
displayed circumstantial and mildly disorganized speech.  Though 
she exhibited a full affective range, she also intermittently 
became withdrawn and exhibited a flattened affect, notably 
during discussion of her psychotic symptoms.  Olanzapine was 
increased to 20 mg on ___, and she did well on that dose. 

-Sleep:  Patient has had trouble with sleep with this episode.  
She has been able to sleep well with Benadryl, and only reported 
one period of hypersomnolence on the morning of ___ after 
increase of Celexa to 40 mg and Zyprexa to 20 mg.  She has had 
no issues thereafter.  

-SI/HI:  She was originally evaluated in the ED for suicidal 
ideation and homicidal ideation towards her children with vague 
plan but no intent.  She reports that these thoughts were from 
the voice she hears in her head though not her own.  She has not 
endorsed any SI/HI since this voice has stopped talking to her.  
She is at a low acute risk of self harm and harm to others due 
to clinical improvement of her depression/psychosis on a stable 
medical regimen, no history of attempts, and good social 
supports. 
 
4. Psychosocial:  Child protection (___) safety evaluation due 
to homicidal ideation but without plan or intent towards 
children.  No other issues.  Family is supportive.

5. Behavior:  No issues on unit
 
Medications on Admission:
--lorazepam 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for agitation, anxiety.  
--citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).
--olanzapine 15 mg Tablet Sig: One (1) Tablet PO at bedtime.  
--enoxaparin 60 mg/0.6 mL Syringe Sig: One (1) injection 
Subcutaneous Q12H (every 12 hours).
--warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.
Disp:*30 Tablet(s)* Refills:*2*
3. olanzapine 20 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Major depressive disorder, severe, possibly recurrent, w/
psychotic features; r/o schizoaffective disorder; r/o psychosis
due to a general medical condition; r/o OCD
II. Deferred
III. Recent pulmonary embolism; chronic pain
IV. Marital issues, possible impending relocation
V. 36

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Apperance: Young woman appearing her stated age. Dressed
comfortably in t-shirt and hospital scrubs, with hospital socks
and flip-flops. Clean, and well-groomed.
Behavior: Quiet and somewhat reserved. Friendly and cooperative.
Slow gait and mild psychomotor retardation, no psychomotor
agitation. Eye contact good. 
Mood: 'much better'
Affect: congruent with mood, smiling normally and frequently, 
Full affective range. 
Speech: Normal rate/rhythm/prosody/volume. No 
dysarthria/aphasia.
Thought Process: Linear and goal-directed. No circumstantiality,
tangentiality, thought blocking, flight of ideas, perseveration,
loose associations.
Thought Content: No AH/VH at this time. No current SI or HI.
I/J: fair/fair. She has some insight. Judgment is improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Your scripts have been called into the ___ on ___ in ___, as requested ___

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___